US07501412B2
α-Acetylphenylacetonitrile (10 g) was dissolved in methanol (100 mL), and hydrazinoethanol (5.3 g) was added, and the mixture was heated under reflux for 4 hrs. After the completion of the reaction, the solvent was evaporated. The obtained residue was subjected to silica gel column chromatography, and the fraction eluted with chloroform:methanol=40:1 was concentrated to give 5-amino-1-(2-hydroxyethyl)-3-methyl-4-phenylpyrazole (11.4 g) as white crystals.

reactant | α-Acetylphenylacetonitrile | 10 g | C(C)(=O)C(C#N)C1=CC=CC=C1 | C10H9NO
reactant | hydrazinoethanol | 5.3 g | N(N)C(C)O | C2H8N2O
reactant | methanol | 100 mL | CO | CH4O
product | 5-amino-1-(2-hydroxyethyl)-3-methyl-4-phenylpyrazole | 11.4 g | NC1=C(C(=NN1CCO)C)C1=CC=CC=C1 | C12H15N3O
